US04348538
4-Fluoro-3-bromo-benzaldehyde anil
102.3 g (1.1 moles) of freshly distilled aniline were added dropwise to a mixture of 1,300 ml of toluene or chlorobenzene and 247 g of 4-fluoro-3-bromophenylglyoxylic acid at 70° to 80° C. The reaction mixture was then heated to the reflux temperature, and was stirred under reflux for a further 4 hours in order to bring the decarboxylation to completion. Thereafter, the solvent was stripped off in vacuo. 270 g (97% of theory) of the anil remained in the form of a colorless powder with a melting point of 45° to 47° C.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | toluene | 1,300 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-fluoro-3-bromophenylglyoxylic acid | 247 g | FC1=C(C=C(C=C1)C(C(=O)O)=O)Br | C8H4BrFO3
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4-Fluoro-3-bromo-benzaldehyde | FC1=C(C=C(C=O)C=C1)Br | C7H4BrFO
